US05151548
21.0 g (0.39 mole) of potassium hydroxide are added to a solution of 62.6 g (0.26 mole) of 3-tert-butyl-2-chlorobenzyl acetate in 400 ml of ethanol. The reaction mixture is stirred for 6 hours at 50° C. and evaporated and the residue is taken up with water. The aqueous mixture is extracted with dichloromethane. 51 g (quantitative) of 3-tert-butyl-2-chlorobenzyl alcohol of boiling point 103°-105° C./0.2 mbar are obtained from the organic phase.

reactant | potassium hydroxide | 0.39 mole, 21.0 g | [OH-].[K+]
reactant | 3-tert-butyl-2-chlorobenzyl acetate | 0.26 mole, 62.6 g | C(C)(=O)OCC1=C(C(=CC=C1)C(C)(C)C)Cl | C13H17ClO2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-tert-butyl-2-chlorobenzyl alcohol | 51 g | C(C)(C)(C)C=1C(=C(CO)C=CC1)Cl | C11H15ClO
